US08022062B2
7-Chloro-6-(3-fluoro-4-pyrrolidin-1-yl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 419 to react 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine with pyrrolidine. Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (ES+) m/z: 391 (M+H)+.

reactant | 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | BrC1=C(C=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1)F | C22H24BrClFNO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 7-Chloro-6-(3-fluoro-4-pyrrolidin-1-yl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC(=C(C=C1)N1CCCC1)F | InChI=1S/C21H24ClFN2S.ClH/c22-18-5-4-16-7-9-24-10-8-17(16)21(18)26-14-15-3-6-20(19(23)13-15)25-11-1-2-12-25;/h3-6,13,24H,1-2,7-12,14H2;1H
